US08980929B2
tert-Butyl[(2R,3S)-2-(2,5-difluorophenyl)-5-oxooxepan-3-yl]carbamate
To a solution of tert-butyl[(2R,3S)-5-oxo-2-(2,5-difluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate (Intermediate 2 in U.S. Pat. No. 7,678,905, the contents of which are herein incorporated by reference in their entirety) (6 g, 18.3 mmol) in DCM (185 mL) cooled to −78° C. was added boron trifluoride diethyl etherate (9.3 mL, 73.3 mmol) dropwise via syringe. After stirring 10 min at −78° C., trimethylsilyldiazomethane (11 mL, 22 mmol, 2 M in hexane) was added dropwise via syringe and the reaction was stirred 1.5 h at −78° C. The reaction mixture was diluted with diethyl ether and sat. aqueous NaHCO3, extracted with diethyl ether (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting oil was dissolved in a mixture of DCM (50 mL) and methanol (50 mL) and pyridiniump-toluenesulfonate (460 mg, 1.83 mmol) was added. The reaction was stirred 18 h at rt, then diluted with DCM and sat. aq. NaHCO3, washed with sat. aq. NaHCO3 and brine, then dried over Na2SO4, filtered and concentrated. The resulting oil was purified by column chromatography (100 g column, 8% to 70% EtOAc:Hex ramp) to provide the title compound as a white solid.

reactant | tert-butyl[(2R,3S)-5-oxo-2-(2,5-difluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1[C@H](OCC(C1)=O)C1=C(C=CC(=C1)F)F)=O | C16H19F2NO4
reactant | boron trifluoride diethyl etherate | 73.3 mmol, 9.3 mL | B(F)(F)F.CCOCC
reactant | trimethylsilyldiazomethane | 22 mmol, 2 M, 11 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | pyridiniump-toluenesulfonate | 1.83 mmol, 460 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | DCM | 185 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | tert-Butyl[(2R,3S)-2-(2,5-difluorophenyl)-5-oxooxepan-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1[C@H](OCCC(C1)=O)C1=C(C=CC(=C1)F)F)=O | C17H21F2NO4
